US08455659B2
Synthesis of tert-butyl (tert-butoxycarbonyliminopyrazol-1-yl-methyl)carbamate [compound (11)]
Step F-1: N,N-dimethylformamide (350 ml) and N,N-diisopropyl ethylamine (125 ml) were added to tert-butyl(iminopyrazol-1-yl-methyl)carbamate 1H-pyrazole-1-carboxamidine hydrochloride (100 g), and then a N,N-dimethylformamide (50 ml) solution of ditert-butyl dicarbonate (152 g) was added over 40 minutes at room temperature. After the mixture was stirred for 2 hours at the same temperature, water (500 ml) was added, the mixture was extracted with toluene (500 ml), and organic layer 1 and aqueous layer 1 were separated. Organic layer 1 was further washed twice with water (300 ml), and organic layer 2 was separated. Aqueous layer 1 was extracted with toluene (500 ml), and organic layer 3 was separated. Organic layer 2 and organic layer 3 were combined, and the solvent was distilled off under reduced pressure until the amount of the solution became approximately 300 ml. Hexane (500 ml) was added to the resulting solution at room temperature, the mixture was stirred for 30 minutes, followed by stirring for 30 minutes under ice-cooling, and then crystals were filtered. The crystals were washed with hexane (100 ml), and then dried under reduced pressure to give the title compound (120.3 g, 83.9% yield).

reactant | N,N-dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
reactant | N,N-diisopropyl ethylamine | 125 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | tert-butyl(iminopyrazol-1-yl-methyl)carbamate 1H-pyrazole-1-carboxamidine hydrochloride | 100 g | Cl.N1(N=CC=C1)C(=N)N.C(C)(C)(C)N(C(O)=O)C(N1N=CC=C1)=N
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | ditert-butyl dicarbonate | 152 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 500 ml | O | H2O
product | tert-butyl (tert-butoxycarbonyliminopyrazol-1-yl-methyl)carbamate | 120.3 g, 83.9% yield | C(C)(C)(C)OC(=O)N=C(N1N=CC=C1)NC(OC(C)(C)C)=O | C14H22N4O4
